US08168658B2
To a solution of tert-butyl [2-[(4-{1 [(acetylamino)methyl]-2-anilino-2-oxoethyl}benzoyl)amino]-4-(3-thienyl)phenyl]carbamate (164 mg, 0.27 mmol) in CH2Cl2 (8 mL) was added trifluoroacetic acid (2 mL), and the reaction was stirred at room temperature for 2 h. Concentration yielded a yellow residue that was dissolved in EtOAc, neutralized with sat. NaHCO3, washed with brine, dried (MgSO4), and evaporated. The resulting solid was dissolved in CH2Cl2 (15 mL) and MeOH (0.5 mL). Hexanes (5 mL) were added, and upon concentration to half-volume, the mixture was filtered to isolate 4-{1-[(acetylamino)methyl]-2-anilino-2-oxoethyl}-N-[2-amino-5-(3-thienyl)phenyl]benzamide as a white solid. 1H NMR (DMSO-d6) δ10.19 (s, 1H), 9.66 (s, 1H), 8.12 (t, J=5.7 Hz, 1H), 7.95 (d, J=8.2 Hz, 2H), 7.58 (d, J=7.6 Hz, 2H), 7.54-7.52 (m, 2H), 7.49-7.47 (m, 3H), 7.38 (dd, J=4.7, 1.5 Hz, 1H), 7.33 (dd, J=8.2, 2.1 Hz, 1H), 7.26 (t, J=7.9 Hz, 2H), 7.01 (t, J=7.5 Hz, 1H), 6.78 (d, J=8.5 Hz, 1H), 4.99 (s, 2H), 4.06 (dd, J=8.5, 6.2 Hz, 1H), 3.54 (ddd, J=13.3, 8.5, 5.0 Hz, 1H), 3.47 (dt, J=12.9, 6.2 Hz, 1H), 1.76 (s, 3H). MS (ESI) calcd [M+H]+ 499.1, found 499.1.

reactant | tert-butyl [2-[(4-{1 [(acetylamino)methyl]-2-anilino-2-oxoethyl}benzoyl)amino]-4-(3-thienyl)phenyl]carbamate | 0.27 mmol, 164 mg | C(C)(=O)NCC(C(=O)NC1=CC=CC=C1)C1=CC=C(C(=O)NC2=C(C=CC(=C2)C2=CSC=C2)NC(OC(C)(C)C)=O)C=C1 | C33H34N4O5S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{1-[(acetylamino)methyl]-2-anilino-2-oxoethyl}-N-[2-amino-5-(3-thienyl)phenyl]benzamide | C(C)(=O)NCC(C(=O)NC1=CC=CC=C1)C1=CC=C(C(=O)NC2=C(C=CC(=C2)C2=CSC=C2)N)C=C1 | C28H26N4O3S
